US07119207B2
6-Methoxy-1-methyl-7-[(2S,3S)-(2-phenyl-piperidin-3-ylamino)-methyl]-3,4-dihydro-1H-quinolin-2-one (750 mg, 1.98 mmol) and N-BOC-2-isothiocyanatoethylamine (400 mg, 1.98 mmol) were stirred in 20 mL of benzene at room temperature for 16 hours. The reaction was diluted with diethyl ether and washed 1× with water, dried over MgSO4, filtered, and concentrated. Silica gel chromatography using (6:1 ethyl acetate/hexane) gave 800 mg (70% yield) of [2-({3-[(6-Methoxy-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-ylmethyl)-amino]-2-phenyl-piperidine-1-carbothioyl}-amino)-ethyl]-carbamic acid tert-butyl ester. Rf=0.11 (6:1 ethyl acetate/hexane).

reactant | 6-Methoxy-1-methyl-7-[(2S,3S)-(2-phenyl-piperidin-3-ylamino)-methyl]-3,4-dihydro-1H-quinolin-2-one | 1.98 mmol, 750 mg | COC=1C=C2CCC(N(C2=CC1CN[C@@H]1[C@@H](NCCC1)C1=CC=CC=C1)C)=O | C23H29N3O2
reactant | N-BOC-2-isothiocyanatoethylamine | 1.98 mmol, 400 mg | C(=O)(OC(C)(C)C)NCCN=C=S | C8H14N2O2S
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
solvent | diethyl ether | C(C)OCC | C4H10O
product | [2-({3-[(6-Methoxy-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-ylmethyl)-amino]-2-phenyl-piperidine-1-carbothioyl}-amino)-ethyl]-carbamic acid tert-butyl ester | 800 mg, 70% yield | C(C)(C)(C)OC(NCCNC(=S)N1C(C(CCC1)NCC1=C(C=C2CCC(N(C2=C1)C)=O)OC)C1=CC=CC=C1)=O | C31H43N5O4S
